US07767842B2
Preparation of (E)-2-(4-azido-2-methylbut-2-en yloxy)tetrahydro-2H-pyran
A solution of 11.43 g (175.86 mmol) of sodium azide (NaN3) and 2.20 g (6.45 mmol) of tetrabutylammonium hydrogenosulfate in 60 ml of water was added to a solution of 12.0 g (58.62 mmol) of (E)-2-(4-Chloro-2-methylbut-2-en yloxy)tetrahydro-2H-pyran in 300 ml of pentane. The reaction mixture was stirred at room temperature overnight. The organic phase was separated and the aqueous phase was extracted with 3×150 ml of Et2O. The combined organic phases were washed with brine, dried over Na2SO4, filtered and concentrated to give 11.21 g (53.06 mmol, 90% yield) of a mixture of azides isomers. No purification was done as infeasible separation was observed on silica gel. The product was used without further purification for the next step.

reactant | sodium azide | 175.86 mmol, 11.43 g | [N-]=[N+]=[N-].[Na+]
reactant | tetrabutylammonium | 6.45 mmol, 2.20 g | C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | (E)-2-(4-Chloro-2-methylbut-2-en yloxy)tetrahydro-2H-pyran | 58.62 mmol, 12.0 g | ClC/C=C(/COC1OCCCC1)\C | C10H17ClO2
solvent | water | 60 ml | O | H2O
solvent | pentane | 300 ml | CCCCC | C5H12
product | (E)-2-(4-azido-2-methylbut-2-en yloxy)tetrahydro-2H-pyran | 53.06 mmol, 11.21 g, 90% yield | N(=[N+]=[N-])C/C=C(/COC1OCCCC1)\C | C10H17N3O2
